US05514815
Benzaldehyde (21.2 g) and succinic acid dimethyl ester (40.9 g) are treated in the same manner as in Reference Example 1, and the resulting product is purified by silica gel column chromatography to give (Z)-3-methoxycarbonyl-4-phenyl-3-butenoic acid methyl ester (2.3 g) as colorless syrup.

reactant | Benzaldehyde | 21.2 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | succinic acid dimethyl ester | 40.9 g | COC(CCC(=O)OC)=O | C6H10O4
product | (Z)-3-methoxycarbonyl-4-phenyl-3-butenoic acid methyl ester | 2.3 g | COC(C/C(=C/C1=CC=CC=C1)/C(=O)OC)=O | C13H14O4
